US07872031B2
A solution of 2-bromothiophene in THF (25 ml) was added drop wise to a suspension of Mg turnings in THF (100 mL). The mixture was stirred for 30 minutes, cooled to 0° C., and a solution of tert-butyl 4-oxopiperidine-1-carboxylate (25.0 g, 125.4 mmol) in THF (25 mL) was added dropwise. The reaction mixture was slowly warmed to RT and stirred for 1 hour until complete consumption of 2-bromothiophene was indicated by TLC. The reaction was quenched with sat. aq. NH4Cl solution (50 mL), extracted with EtOAc (200 mL), washed with H2O (50 mL) and brine solution, dried (Na2SO4), filtered, and evaporated to afford crude product as light brown oil. Purification by silica gel chromatography (25% EtOAc/hexanes) yielded tert-butyl 4-hydroxy-4-(thiophen-2-yl)piperidine-1-carboxylate (14.0 g, 40% yield).

reactant | 2-bromothiophene | BrC=1SC=CC1 | C4H3BrS
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 125.4 mmol, 25.0 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-hydroxy-4-(thiophen-2-yl)piperidine-1-carboxylate | 14.0 g, 40% yield | OC1(CCN(CC1)C(=O)OC(C)(C)C)C=1SC=CC1 | C14H21NO3S
